US06723722B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-{methyl[1-(4-pyridyl)-4-piperidinyl]amino}-2-piperazinone
1-{[1-(tert-Butoxycarbonyl)piperidinyl]methylamino}-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (1.63 g) was combined with methanol (10 ml) and a 4N solution of hydrochloric acid in ethyl acetate (15 ml) and stirred at room temperature for 30 minutes. The reaction mixture was concentrated and the residue obtained was combined with 4-chloropyridine hydrochloride (950 mg), triethylamine (3.8 g) and ethanol (100 ml), and reacted in a sealed tube at 150° C. for 15 hours. The reaction mixture was concentrated and the residue was combined with a 1N aqueous solution of sodium hydroxide, extracted with dichloromethane, dried and concentrated. The residue obtained was purified by a column chromatography (dichloromethane: 10% aqueous ammonia-containing methanol=20:1) and crystallized from ether to obtain the title compound (794 mg) as colorless crystals.

reactant | 1-{[1-(tert-Butoxycarbonyl)piperidinyl]methylamino}-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 1.63 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CNN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C25H33ClN4O5S
reactant | methanol | 10 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
reactant | 4-chloropyridine hydrochloride | 950 mg | Cl.ClC1=CC=NC=C1
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | triethylamine | 3.8 g | C(C)N(CC)CC | C6H15N
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-{methyl[1-(4-pyridyl)-4-piperidinyl]amino}-2-piperazinone | 794 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)N(C1CCN(CC1)C1=CC=NC=C1)C)=O | C25H28ClN5O3S
